US06897306B2
Ethyl [(5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)methoxy]acetate
A solution of (3R)-6-cyclohexyl-3-{3-[(2-ethoxy-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoic acid (Preparation 87) (330 mg, 0.86 mmol) and N-methylmorpholine (160 μl, 1.46 mmol) in anhydrous tetrahydrofuran (14 ml) was cooled to 0° C., treated with isobutyl chloroformate (120 μl, 0.93 mmol) and stirred under a nitrogen atmosphere for 2.5 hours. O-(Trimethylsilyl)hydroxylamine (350 μl, 2.86 mmol) was added and the mixture was stirred for 18 hours, being allowed to warm to room temperature over this time. The mixture was then treated with methanol and stirred at room temperature for 1 hour. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with water and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a gradient system of 98:2 (dichloromethane:methanol) gradually changing to 90:10 (dichloromethane:methanol) to afford the title compound as a colourless oil (272 mg).

reactant | (3R)-6-cyclohexyl-3-{3-[(2-ethoxy-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 0.86 mmol, 330 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)COCC(=O)OCC | C19H30N2O6
reactant | N-methylmorpholine | 1.46 mmol, 160 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.93 mmol, 120 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 2.86 mmol, 350 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | Ethyl [(5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)methoxy]acetate | 272 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)COCC(=O)OCC | C19H31N3O6
